US05382590
Following a procedure analogous to that described in Example 106, but using 1.8 g of (RS)-2-amino-N-[2-(3-(N,N-diethylcarbamoyl)piperidino)-2-oxoethyl]-N-phenylacetamide and 0.64 g of 3-methylphenyl isocyanate as the starting material, 0.92 g of (RS)-N-[2-(3-(N,N-diethylcarbamoyl)piperidino)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenyl acetamide melting at 156° C is obtained after recrystallization from an ethyl acetate/diisopropyl ether mixture (50/50 by volume).

reactant | (RS)-2-amino-N-[2-(3-(N,N-diethylcarbamoyl)piperidino)-2-oxoethyl]-N-phenylacetamide | 1.8 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N1CC(CCC1)C(N(CC)CC)=O | C20H30N4O3
reactant | 3-methylphenyl isocyanate | 0.64 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | (RS)-N-[2-(3-(N,N-diethylcarbamoyl)piperidino)-2-oxoethyl]-2-[3-(3-methylphenyl)ureido]-N-phenyl acetamide | 0.92 g | C(C)N(C(=O)C1CN(CCC1)C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)CC | C28H37N5O4
